US05198449
Following the procedure for the preparation of 1-benzyl-3-benzoylpyrrolidine (U.S. Pat. No. 3,479,370) and using 1-benzhydryl-3-cyanoazetidine [J.O.C. 37(24), 3953-55, (1972)] and 4-fluorophenylmagnesium bromide, 1-benzhydryl-3-(4-fluorobenzoyl)azetidine is obtained. The benzhydryl group is removed by catalytic hydrogenation using palladium on carbon to obtain the title compound.

reactant | 1-benzyl-3-benzoylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C(C1=CC=CC=C1)=O | C18H19NO
reactant | 1-benzhydryl-3-cyanoazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | 1-benzhydryl-3-(4-fluorobenzoyl)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(C1=CC=C(C=C1)F)=O | C23H20FNO
